US06518257B1
(iv) Production of N-{6-fluoro-4′-[1-hydroxy-1-(1H-imidazol-4-yl)-2-methylpropyl][1,1′-biphenyl]-3-yl}acetamide
By the reaction in the same manner as in Example 4-(iii) using N-{6-fluoro-4′-[1-hydroxy-2-methyl-1-(1-trityl-1H-imidazol-4-yl)propyl][1,1′-biphenyl]-3-yl}acetamide (820 mg) and pyridine hydrochloride (230 mg), the title compound (250 mg) was obtained as a colorless amorphous powder.

reactant | N-{6-fluoro-4′-[1-hydroxy-2-methyl-1-(1-trityl-1H-imidazol-4-yl)propyl][1,1′-biphenyl]-3-yl}acetamide | 820 mg | FC1=CC=C(C=C1C1=CC=C(C=C1)C(C(C)C)(C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)O)NC(C)=O | C40H36FN3O2
reactant | pyridine hydrochloride | 230 mg | Cl.N1=CC=CC=C1
product | N-{6-fluoro-4′-[1-hydroxy-1-(1H-imidazol-4-yl)-2-methylpropyl][1,1′-biphenyl]-3-yl}acetamide | 250 mg | FC1=CC=C(C=C1C1=CC=C(C=C1)C(C(C)C)(C=1N=CNC1)O)NC(C)=O | C21H22FN3O2
